US07223788B2
N-[4-(3-Dimethylaminopyrrolidin-1-yl)phenyl]-3-fluoro-4-(4-methylpiperidin-1-yl)-benzamide
3-Fluoro-4-(4-methylpiperidin-1-yl)benzoic acid was reacted with [1-(4-aminophenyl)-pyrrolidin-3-yl]dimethylamine by method E-a. This resulted in the product with the molecular weight of 424.00 (C25H33FN4O); MS (ESI): 425 (M+H+) as hydrotrifluoroacetate.

reactant | 3-Fluoro-4-(4-methylpiperidin-1-yl)benzoic acid | FC=1C=C(C(=O)O)C=CC1N1CCC(CC1)C | C13H16FNO2
reactant | [1-(4-aminophenyl)-pyrrolidin-3-yl]dimethylamine | NC1=CC=C(C=C1)N1CC(CC1)N(C)C | C12H19N3
product | N-[4-(3-Dimethylaminopyrrolidin-1-yl)phenyl]-3-fluoro-4-(4-methylpiperidin-1-yl)-benzamide | CN(C1CN(CC1)C1=CC=C(C=C1)NC(C1=CC(=C(C=C1)N1CCC(CC1)C)F)=O)C | C25H33FN4O
